### PR TITLE
feat(ErdosProblems): 996

### LINKED ISSUE #1060: Erdős Problem 996
### What is the conjecture

https://www.erdosproblems.com/996

  Let $n_1<n_2<\cdots$ be a lacunary sequence of integers, and let $f\in L^2([0,1])$. Let $f_n$ be the $n$th partial sum of the Fourier series of $f(x)$. Is there an absolute constant $C>0$ such that, if
$$\| f-f\_n\|_2 \ll \frac{1}{(\log\log\log n)^{C}}$$
then
$$\lim\_{N\to\infty}\frac{1}{N}\sum\_{k\leq N}f(\\{\alpha n\_k\\})=\int_0^1 f(x)\mathrm{d}x$$
for almost every $\alpha$?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by CoolRmal**
This PR adds the following conjecture: 

Does there exists a positive constant `ε` such that for all `f ∈ L²[0,1]` and all lacunary
sequences `n`, if `‖f - fₖ‖₂ = O(1 / log log log k) ^ ε`, then for almost every `x`,
`lim ∑ k ∈ Finset.range N, f ((n k) • x)) / N = ∫ t, f t ∂t`? `fₖ` is the `k`-th partial fourier sum.

Closes #1060

### CODE REVIEW

File: FormalConjectures/ErdosProblems/996.lean [hunk 1]
```diff
@@ -0,0 +1,85 @@
...
+ - [erdosproblems.com/996](https://www.erdosproblems.com/996)
+ - [Er49d] Erdös, P. "On the strong law of large numbers." Transactions of the American Mathematical
+    Society 67.1 (1949): 51-56.
+ - [Ma66] Matsuyama, Noboru. "On the strong law of large numbers." Tohoku Mathematical Journal,
+    Second Series 18.3 (1966): 259-269.
+-/
+
+/-- In [Er64b], a sequence of natural numbers `n 1 < n 2 < ...` is said to be lacunary if for all
+`k`, `n (k + 1) / n k > c > 1`. -/
+def Lacunary (n : ℕ → ℕ) : Prop := ∃ (c : ℝ), 1 < c ∧ ∀ k, c * (n k) < n (k + 1)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/996.lean]:
```suggestion
def IsLacunary (n : ℕ → ℕ) : Prop := ∃ c > (1 : ℝ), ∀ k, c * n k < n (k + 1)
```

File: FormalConjectures/ErdosProblems/996.lean [hunk 2]
```diff
@@ -0,0 +1,85 @@
...
+/-- `n k = 2 ^ k` is a lacunary sequence . -/
+@[category test, AMS 40]
+example : Lacunary (fun k => 2 ^ k) := by
+  refine ⟨1.9, ⟨by linarith, fun n => ?_⟩⟩
+  simp [pow_succ']
+  linarith
+
+/-- A lacunary sequence is strictly increasing. -/
+@[category API, AMS 40]
+lemma Lacunary.StrictMono {n : ℕ → ℕ} (hn : Lacunary n) : StrictMono n := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/996.lean]:
```suggestion
lemma Lacunary.strictMono {n : ℕ → ℕ} (hn : Lacunary n) : StrictMono n := by
```

File: FormalConjectures/ErdosProblems/996.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+  refine strictMono_nat_of_lt_succ fun k => (Nat.cast_lt (α := ℝ)).mp ?_
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/996.lean]:
```suggestion
  refine strictMono_nat_of_lt_succ fun k => ?_
```

File: FormalConjectures/ErdosProblems/996.lean [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+  obtain ⟨c, hc⟩ := hn
+  by_cases h : n k = 0
+  · simpa [h] using (hc.2 k)
+  · calc
+    _ < c * (n k) := (lt_mul_iff_one_lt_left (by simp [(n k).pos_iff_ne_zero.mpr h])).mpr hc.1
+    _ < n (k + 1) := hc.2 k
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/996.lean]: No need to case-split. Here's an untested proof
```suggestion
  obtain ⟨c, hc⟩ := hn
  rw [← Nat.cast_lt (α := ℝ)]
  refine (hc.2 k).trans_le' ?_
  grw [← hc, one_mul]
```

File: FormalConjectures/ErdosProblems/996.lean [hunk 5]
```diff
@@ -0,0 +1,85 @@
...
+
+noncomputable def fourierPartial {T : ℝ} [hT : Fact (0 < T)] (f : Lp ℂ 2 (@haarAddCircle T hT))
+    (k : ℕ) : AddCircle T → ℂ :=
+  fun x => ∑ i ∈ Icc (-(k : ℤ)) (k : ℤ), fourierCoeff f k • (fourier i x)
+
+namespace Erdos996
+
+/-- Does there exists a positive constant `ε` such that for all `f ∈ L²[0,1]` and all lacunary
+sequences `n`, if `‖f - fₖ‖₂ = O(1 / log log log k) ^ ε`, then for almost every `x`,
+`lim ∑ k ∈ Finset.range N, f ((n k) • x)) / N = ∫ t, f t ∂t`? -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/996.lean]:
```suggestion
`lim ∑ k ∈ Finset.range N, f (n k • x)) / N = ∫ t, f t ∂t`? -/
```

File: FormalConjectures/ErdosProblems/996.lean [hunk 6]
```diff
@@ -0,0 +1,63 @@
...
+ - [erdosproblems.com/996](https://www.erdosproblems.com/996)
+ - [Er49d] Erdös, P. "On the strong law of large numbers." Transactions of the American Mathematical
+    Society 67.1 (1949): 51-56.
+ - [Ma66] Matsuyama, Noboru. "On the strong law of large numbers." Tohoku Mathematical Journal,
+    Second Series 18.3 (1966): 259-269.
+-/
+
+noncomputable def fourierPartial {T : ℝ} [hT : Fact (0 < T)] (f : Lp ℂ 2 (@haarAddCircle T hT))
+    (k : ℕ) : AddCircle T → ℂ :=
+  fun x => ∑ i ∈ Icc (-(k : ℤ)) (k : ℤ), fourierCoeff f k • (fourier i x)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/996.lean]:
```suggestion
  fun x => ∑ i ∈ Icc (-k : ℤ) k, fourierCoeff f k • fourier i x
```

File: FormalConjectures/ErdosProblems/996.lean [hunk 7]
```diff
@@ -0,0 +1,63 @@
...
+
+/-- The following theorem is proved in [Ma66]. -/
+@[category research solved, AMS 42]
+theorem erdos_996.log2 : ∀ (ε : ℝ), 0.5 < ε →
+    ∀ (f : Lp ℂ 2 (haarAddCircle (T := 1))) (n : ℕ → ℕ),
+    IsLacunary n →
+    (fun k => (eLpNorm (fourierPartial f k) 2 (haarAddCircle (T := 1))).toReal) =O[atTop]
+    (fun k => 1 / (Real.log^[2] k) ^ ε)
+    →
+    ∀ᵐ x, Tendsto (fun N => (∑ k ∈ Finset.range N, f ((n k) • x)) / N) atTop
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/996.lean]:
```suggestion
    ∀ᵐ x, Tendsto (fun N => (∑ k ∈ .range N, f (n k • x)) / N) atTop
```

File: FormalConjectures/ForMathlib/NumberTheory/Lacunary.lean [hunk 8]
```diff
@@ -18,28 +18,12 @@ import Mathlib.Analysis.Normed.Field.Lemmas
...
-  induction n with
-  | zero => exact Nat.pos_iff_ne_zero.mpr hA.left
-  | succ n ih =>
-    obtain ⟨μ, hμ, hμ'⟩ := hA.right
-    specialize hμ' n
-    rify at ih ⊢
-    rw [le_div_iff₀ ih] at hμ'
-    apply lt_trans ih (lt_of_lt_of_le (lt_mul_left ih hμ) hμ')
+$a_{n+1}/a_n > \lambda$ for all $n\geq 1$. -/
+def IsLacunary (n : ℕ → ℕ) : Prop := ∃ c > (1 : ℝ), ∀ k, c * n k < n (k + 1)
```
Comment (YaelDillies) [inline FormalConjectures/ForMathlib/NumberTheory/Lacunary.lean:22]:
```suggestion
def IsLacunary (A : ℕ → ℕ) : Prop := A 0 ≠ 0 ∧ ∃ c > (1 : ℝ), ∀ k, c * A k < A (k + 1)
```
and can you please restore `IsLacunary.pos`?

File: FormalConjectures/ErdosProblems/996.lean [hunk 9]
```diff
@@ -0,0 +1,63 @@
...
+-/
+
+noncomputable def fourierPartial {T : ℝ} [hT : Fact (0 < T)] (f : Lp ℂ 2 (@haarAddCircle T hT))
+    (k : ℕ) : AddCircle T → ℂ :=
+  fun x => ∑ i ∈ Icc (-(k : ℤ)) (k : ℤ), fourierCoeff f k • (fourier i x)
+
+namespace Erdos996
+
+/-- Does there exists a positive constant `ε` such that for all `f ∈ L²[0,1]` and all lacunary
+sequences `n`, if `‖f - fₖ‖₂ = O(1 / log log log k) ^ ε`, then for almost every `x`,
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/996.lean]:
```suggestion
/-- Does there exists a positive constant `C` such that for all `f ∈ L²[0,1]` and all lacunary
sequences `n`, if `‖f - fₖ‖₂ = O(1 / log log log k ^ C)`, then for almost every `x`,
```
and similarly in the lean

File: FormalConjectures/ErdosProblems/996.lean [hunk 10]
```diff
@@ -0,0 +1,63 @@
...
+/-!
+# Erdős Problem 996
+
+*Reference:*
+ - [erdosproblems.com/996](https://www.erdosproblems.com/996)
+ - [Er49d] Erdös, P. "On the strong law of large numbers." Transactions of the American Mathematical
+    Society 67.1 (1949): 51-56.
+ - [Ma66] Matsuyama, Noboru. "On the strong law of large numbers." Tohoku Mathematical Journal,
+    Second Series 18.3 (1966): 259-269.
+-/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/996.lean:28]:
```suggestion

/-!
# Erdős Problem 996

*Reference:*
 - [erdosproblems.com/996](https://www.erdosproblems.com/996)
 - [Er49d] Erdös, P. "On the strong law of large numbers." Transactions of the American Mathematical
    Society 67.1 (1949): 51-56.
 - [Ma66] Matsuyama, Noboru. "On the strong law of large numbers." Tohoku Mathematical Journal,
    Second Series 18.3 (1966): 259-269.
-/

open MeasureTheory AddCircle Filter Topology Asymptotics Finset Real
```

File: FormalConjectures/ErdosProblems/996.lean [hunk 11]
```diff
@@ -0,0 +1,63 @@
...
+namespace Erdos996
+
+/-- Does there exists a positive constant `ε` such that for all `f ∈ L²[0,1]` and all lacunary
+sequences `n`, if `‖f - fₖ‖₂ = O(1 / log log log k) ^ ε`, then for almost every `x`,
+`lim ∑ k ∈ Finset.range N, f (n k • x)) / N = ∫ t, f t ∂t`? -/
+@[category research open, AMS 42]
+theorem erdos_996.log3 : ∃ (ε : ℝ), 0 < ε ∧ ∀ (f : Lp ℂ 2 (haarAddCircle (T := 1))) (n : ℕ → ℕ),
+    IsLacunary n →
+    (fun k => (eLpNorm (fourierPartial f k) 2 (haarAddCircle (T := 1))).toReal) =O[atTop]
+    (fun k => 1 / (Real.log^[3] k) ^ ε)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/996.lean]:
```suggestion
    (fun k => 1 / log (log (log k))) ^ ε)
```

File: FormalConjectures/ErdosProblems/996.lean [hunk 12]
```diff
@@ -0,0 +1,63 @@
...
+    →
+    ∀ᵐ x, Tendsto (fun N => (∑ k ∈ Finset.range N, f ((n k) • x)) / N) atTop
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/996.lean]:
```suggestion
    ∀ᵐ x, Tendsto (fun N => (∑ k ∈ .range N, f (n k • x)) / N) atTop
```

File: FormalConjectures/ForMathlib/NumberTheory/Lacunary.lean (hunk 8 above)
Comment (CoolRmal) [reply FormalConjectures/ForMathlib/NumberTheory/Lacunary.lean:22]: I don't think we should have `IsLacunary.pos`. There's nothing wrong to have a lacunary sequence to start with 0. Also `IsLacunary.pos` is originally used to prove `IsLacunary.stricMono`, but I proved `IsLacunary.stricMono` without `IsLacunary.pos` by using the new definition.  In the original definition, `A 0 ≠ 0` needs to be included so that `A 1 / A 0` is not equal to 0. This is also why I am using multiplication instead of division in my new definition.

Comment (YaelDillies) [reply FormalConjectures/ForMathlib/NumberTheory/Lacunary.lean:22]: Sure, okay

Comment (eric-wieser) [reply FormalConjectures/ForMathlib/NumberTheory/Lacunary.lean:22]: I guess the request to rename to `A` still applies?
